US09260408B2
6-(5-Bromo-pyridin-3-yl)-2,6-diaza-spiro[3.3]heptane-2-carboxylic acid tert-butyl ester
In analogy to the procedure described for the preparation of intermediate A-3 [B], 2,6-diaza-spiro[3.3]heptane-2-carboxylic acid tert-butyl ester was reacted with 3,5-dibromopyridine in the presence of Pd2(dba)3, rac-BINAP and sodium tert-butoxide to give the title compound as a white solid.

reactant | 2,6-diaza-spiro[3.3]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(C1)CNC2 | C10H18N2O2
reactant | 3,5-dibromopyridine | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | rac-BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(5-Bromo-pyridin-3-yl)-2,6-diaza-spiro[3.3]heptane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(C1)CN(C2)C=2C=NC=C(C2)Br | C15H20BrN3O2
